US08975254B2
d) (S)-5-((1H-imidazol-1-yl)methyl)-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-2-carboxamide
(S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (157 mg, 0.60 mmol) was coupled with 5-((1H-imidazol-1-yl)methyl)thiazole-2-carboxylic acid (0.60 mmol) using the method of Example 34(d). Crude product was purified twice by CombiFlash (1st column: C-18, eluent: 0-100% MeCN in water; 2nd column: silica, eluent: 0-8% MeOH in DCM) to yield 13 mg (5%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.18 (d, 2H), 4.29-4.52 (m, 3H), 5.36 (s, 2H), 6.92 (s, 1H), 6.94 (dd, 1H), 7.22 (s, 1H), 7.71 (s, 1H), 7.75 (s, 1H), 7.83 (d, 1H), 7.90 (dd, 1H), 7.96 (d, 1H), 8.04 (d, 1H), 8.83 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.60 mmol, 157 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-((1H-imidazol-1-yl)methyl)thiazole-2-carboxylic acid | 0.60 mmol | N1(C=NC=C1)CC1=CN=C(S1)C(=O)O | C8H7N3O2S
product | (S)-5-((1H-imidazol-1-yl)methyl)-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-2-carboxamide | 13 mg, 5% | N1(C=NC=C1)CC1=CN=C(S1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C21H18ClN7OS
